US08003651B2
Methyl 2-(4-chlorophenyl)-3-hydroxypropanoate (39.4 g, 184 mmol) was dissolved in DCM (500 mL) and treated with TEA (64.0 mL, 459 mmol). The solution was cooled to 0° C. and treated slowly with MsCl (15.6 mL, 202 mmol) and then stirred for 30 minutes to completion by TLC analysis. The solution was partitioned with 1N HCl solution, and the aqueous portion was extracted once with DCM. The combined organic portions were washed once more with 1N HCl solution, separated, washed with diluted NaHCO3 solution, and separated. The organic portion was dried over MgSO4, filtered, and concentrated in vacuo to afford an orange oil. The residue was loaded onto a large fritted filter with a plug of silica gel and eluted with 9:1 hexanes:ethyl acetate affording the pure desired product by TLC analysis. The concentrated pure fractions yielded the methyl 2-(4-chlorophenyl)acrylate as a colorless oil (30.8 g, 85%). This methyl 2-(4-chlorophenyl)acrylate (500 mg, 2.54 mmol) was added as a solution in THF (1.35 mL) to a stirring solution of i-PrNH2 (217 uL, 2.54 mmol) in THF (5.0 mL) at 0° C. The reaction was allowed to stir at room temperature overnight to completion by LCMS analysis. The Boc2O (584 uL, 2.54 mmol) was added to the stirring amine via pipette. The reaction was allowed to stir overnight to completion by LCMS and TLC analysis of the mixture. The solution was concentrated in vacuo to afford methyl 3-(tert-butoxycarbonyl(isopropyl)amino)-2-(4-chlorophenyl)propanoate as a colorless oil (854 mg, 94%). LC/MS (APCI+) m/z 256.1 [M-Boc]+.

reactant | methyl 2-(4-chlorophenyl)acrylate | 2.54 mmol, 500 mg | ClC1=CC=C(C=C1)C(C(=O)OC)=C | C10H9ClO2
reactant | i-PrNH2 | 2.54 mmol, 217 uL | C(C)(C)N | C3H9N
reactant | Boc2O | 2.54 mmol, 584 uL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 1.35 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | methyl 3-(tert-butoxycarbonyl(isopropyl)amino)-2-(4-chlorophenyl)propanoate | 854 mg, 94% | C(C)(C)(C)OC(=O)N(CC(C(=O)OC)C1=CC=C(C=C1)Cl)C(C)C | C18H26ClNO4
